US09260397B2
1-(4-methylphenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure, 6.30 mmol (1.00 g) 1-(4-methylphenyl)imidazole and 7.60 mmol (0.930 g, 0.69 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 6 h to 90° C.

reactant | 1-(4-methylphenyl)imidazole | 6.30 mmol, 1.00 g | CC1=CC=C(C=C1)N1C=NC=C1 | C10H10N2
reactant | 1-bromopropane | 7.60 mmol, 0.69 ml, 0.930 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-methylphenyl)-3-propyl imidazolium bromide | [Br-].CC1=CC=C(C=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C13H17N2.BrH/c1-3-8-14-9-10-15(11-14)13-6-4-12(2)5-7-13;/h4-7,9-11H,3,8H2,1-2H3;1H/q+1;/p-1
